US07947691B2
3-Allyloxy-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) was alkylated with 2-bromoethanol via general procedure B1. The intermediate alcohol was treated with tosyl chloride (3 eq) in pyridine (0.2 M). After 4 hours, the reaction mixture was partitioned between EtOAc and water. The organic layer was dried over MgSO4 and concentrated to give toluene-4-sulfonic acid 2-(3-allyloxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-yl)-ethyl ester. This material could be used crude or could be further purified by chromatography in 1:1 EtOAc/hexanes. The tosylate was treated with pyrrolidine (1.5 eq) and Et3N (1.5 eq) in CHCl3. The reaction was heated to 55° C. for 2 hours. Additional pyrrolidine (2 eq) was added and the reaction was stirred overnight at 55° C. The reaction was cooled, washed with water, and concentrated. The crude intermediate was deprotected via general procedure D2 to give the title compound which was purified by mass-triggered preparative HPLC. 1H NMR (DMSO-d6) δ 8.14 (d, 1H, J=5.4 Hz), 7.32 (d, 1H, J=5.4 Hz), 4.14 (t, 2H, J=6.9 Hz), 3.60-3.30 (m, 4H), 2.67 (t, 2H, J=6.9 Hz), 1.69-1.60 (m, 4H); Electrospray MS: 322 (M+H); retention time: 1.24 min.

reactant | 3-Allyloxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | C(C=C)ON1C(NC2=C(C1=O)SC=C2)=O | C9H8N2O3S
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | tosyl chloride | 3 eq | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 0.2 M | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 2-(3-allyloxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-yl)-ethyl ester | C(C=C)ON1C(N(C2=C(C1=O)SC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)=O | C18H18N2O6S2
